US07119115B2
But starting with 0.107 g of a mixture of 6,6-diphenyl-3-thiophen-3-yl-1-(2-trimethylsilanylethoxymethyl)-6,7-dihydro-1H-indazole and 6,6-diphenyl-3-thiophen-3-yl-2-(2-trimethylsilanylethoxymethyl)-6,7-dihydro-1H-indazole, 2.2 cm3 of ethanol and 2.2 cm3 of a 2N ethanolic solution of hydrogen chloride. After flash chromatography on a column of silica [eluent: dichloromethane], 0.024 g of 6,6-diphenyl-3-thiophen-3-yl-6,7-dihydro-1H-indazole is thus obtained in the form of a solid, the characteristics of which are as follows:

reactant | 6,6-diphenyl-3-thiophen-3-yl-1-(2-trimethylsilanylethoxymethyl)-6,7-dihydro-1H-indazole | C1(=CC=CC=C1)C1(C=CC=2C(=NN(C2C1)COCC[Si](C)(C)C)C1=CSC=C1)C1=CC=CC=C1 | C29H32N2OSSi
reactant | 6,6-diphenyl-3-thiophen-3-yl-2-(2-trimethylsilanylethoxymethyl)-6,7-dihydro-1H-indazole | C1(=CC=CC=C1)C1(C=CC=2C(N(NC2C1)COCC[Si](C)(C)C)C1=CSC=C1)C1=CC=CC=C1 | C29H34N2OSSi
reactant | hydrogen chloride | Cl | ClH
solvent | ethanol | 2.2 cm3 | C(C)O | C2H6O
product | 6,6-diphenyl-3-thiophen-3-yl-6,7-dihydro-1H-indazole | 0.024 g | C1(=CC=CC=C1)C1(C=CC=2C(=NNC2C1)C1=CSC=C1)C1=CC=CC=C1 | C23H18N2S
